data/pmechdb/original/mc_train_fold0/raw/train.txt
C[CH+:20]C.CC1=C[CH:10]=[C:11](O1)C>>CC1=C[CH:10]([C+:11](O1)C)[CH:20](C)C 10,11=10,20
C[Si:20](C)(C)Cl.C1=CC=C(C=C1)CCCCP(=O)[O-:10].C[Si](C)(C)N[Si](C)(C)C.C[Si](C)(C)OC(=O)CCl.[Cl-]>>C[Si-:20](C)(C)([O:10]P(=O)CCCCC1=CC=CC=C1)Cl.C[Si](C)(C)N[Si](C)(C)C.C[Si](C)(C)OC(=O)CCl.[Cl-] 10=20,
[H:20][CH2:21][CH:22](C)[Cl:23].CC[O-:10]>>[H:20][O:10]CC.C[CH:22]=[CH2:21].[Cl-:23] 10=20;22,23=23;20,21=21,22
[CH:20](=[OH+:21])S.[OH2:10]>>[CH:20]([OH2+:10])([OH:21])S 10=20;20,21=21
[H:20][CH:21](C(C)(C)O)[N+](=O)[O-].[OH-:10]>>[H:20][OH:10].CC(C)([CH-:21][N+](=O)[O-])O 10=20;20,21=21
C1CC[C:10](CC1)([OH2+:11])OCCO>>C1CC[C+:10](CC1)OCCO.[OH2:11] 10,11=11
C[C+:20]=C(CC1[CH:10]=[C:11](CCCC1C)[O:12][Ti-](Cl)(Cl)(Cl)Cl)[Si](C)(C)C>>CC1CCC[C:11](=[O+:12][Ti-](Cl)(Cl)(Cl)Cl)[CH:10]2C1CC(=[C:20]2C)[Si](C)(C)C 10,11=10,20;12=11
CN(C)[C:20](=[O:21])OC.[Cl-:10]>>CN(C)[C:20]([O-:21])(OC)[Cl:10] 10=20;20,21=21
[H:20][N+:21](=C1C2=C(C=CC=C2C(F)(F)F)NC1=O)C3=CC(=CC=C3)C(F)(F)F.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1=CC(=CC(=C1)C(F)(F)F)[N:21]=C2C3=C(C=CC=C3C(F)(F)F)NC2=O.O 10=20;20,21=21
[CH3:20][O:21][P+:22](O)(O)O.[Br-:10]>>[CH3:20][Br:10].O[P:22](=[O:21])(O)O 10=20;20,21=21,22
[H:20][O:21]C(=O)C.C1C[C:11](=[CH:10]CC1OC(=O)C2=CC=CC=C2)[N:12]3CCN(CC3)C4=CC=CC=C4.[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]>>[H:20][CH:10]1CC(CC[C:11]1=[N+:12]2CCN(CC2)C3=CC=CC=C3)OC(=O)C4=CC=CC=C4.CC(=O)[O-:21].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]1CCOC1(CC(=O)OCC)CC(=O)OCC.[B-]([OH:10])(F)(F)F.CCOCC.C(CO)O>>CCOC(=O)CC1(OCC[O:21]1)CC(=O)OCC.[H:20][OH+:10][B-](F)(F)F.CCOCC.C(CO)O 10=20;20,21=21
[H:20][C:21]1(C(C2=C(C=CC=C2O[C:22]1=[O:23])OC)OC(=O)C)NC(=O)C3=CC=CC=C3.CC(=O)[O-:10].C(=O)(O)O[K].C(=O)([O-])O[K].[K+]>>[H:20][O:10]C(=O)C.CC(=O)OC1C2=C(C=CC=C2O[C:22](=[C:21]1NC(=O)C3=CC=CC=C3)[O-:23])OC.C(=O)(O)O[K].C(=O)([O-])O[K].[K+] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C1CC(C2C(C(=O)C=CC2(C1COCOC)C)C)OS(=O)(=O)C.CC(C)(C)[O:10][K]>>[H:20][O+:10](C(C)(C)C)[K].CC1C2C(CC(C(C2(C=CC1=O)C)COCOC)[O-:21])OS(=O)(=O)C 10=20;20,21=21
C[Si-:10](C)(C)([O+]=C)[I:11]>>C[Si:10](C)(C)[O+]=C.[I-:11] 10,11=11
C[C:11](C)(C)[O:10][C:20](=[OH+:21])NC(CCSC)C(=O)NCCC(=O)O.C(=O)(C(F)(F)F)[O-].[Cl-]>>C[C+:11](C)C.CSCCC(C(=O)NCCC(=O)O)N[C:20](=[O:10])[OH:21].C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
CC1CCC(C(C1)C=CC(C)(C(C)C)C(=O)[O-:10])C(C)C.C1=CC=C(C=C1)O[P:20](=[O:21])(N=[N+]=[N-])OC2=CC=CC=C2>>CC1CCC(C(C1)C=CC(C)(C(C)C)C(=O)[O:10][P:20](N=[N+]=[N-])([O-:21])(OC2=CC=CC=C2)OC3=CC=CC=C3)C(C)C 10=20;20,21=21
CC1=C(C=C2C(=C1)N(C=C(C2=O)C(=O)O)CN3CC[N:10](CC3)CC4=C(OC(=O)O4)C)F.C1=CC(=CC(=C1)[C:22](=[OH+:23])[O:21][O-:20])Cl>>CC1=C(C=C2C(=C1)N(C=C(C2=O)C(=O)O)CN3CC[N+:10](CC3)(CC4=C(OC(=O)O4)C)[O-:20])F.C1=CC(=CC(=C1)[C:22](=[O:21])[OH:23])Cl 10=20;22,23=23;20,21=21,22
CCOC(=O)N[N:11](C(=O)OCC)[P:10](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC4CCC5(CC4(CCC6C5CC6(C)C)OC)C>>CCOC(=O)N[N-:11]C(=O)OCC.CC1(CC2C1CCC3(CC2(CCC3O[P+:10](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)C)OC)C 10,11=11
CC(C)(C)C1CC2C34C1(C(OC3(CC=C4)C(=O)O2)[OH:10])C[CH:20]=[O+:21]C.CC(=O)[O-].BrBr>>CC(C)(C)C1CC2C34C15C[CH:20]([OH+:10]C5OC3(CC=C4)C(=O)O2)[O:21]C.CC(=O)[O-].BrBr 10=20;20,21=21
COC1=C(C(=C(C=C1)OC)Br)[CH:20]2[OH+:21]CCC[O:10]2.C1CCOC1.O.[Cl-]>>COC1=C(C(=C(C=C1)OC)Br)[CH:20]=[O+:10]CCC[OH:21].C1CCOC1.O.[Cl-] 10=20;20,21=21
CCOC1C(C(=N[OH+][C:20](C2=CC=C(C=C2)[N+](=O)[O-])([O-:10])[Cl:21])C1(C)C)C>>CCOC1C(C(=N[OH+][C:20](=[O:10])C2=CC=C(C=C2)[N+](=O)[O-])C1(C)C)C.[Cl-:21] 10=20;20,21=21
C[N+:21](=[CH2:20])C.C1=CC2=C(C=C1)[NH:12][CH:11]=[CH:10]2.CC(=O)[O-]>>C[N:21](C)[CH2:20][CH:10]1[CH:11]=[NH+:12]C2=C1C=CC=C2.CC(=O)[O-] 10,11=10,20;20,21=21;12=11
C1=CC=C(C=C1)[OH+:11][K:10]>>C1=CC=C(C=C1)[OH:11].[K+:10] 10,11=11
[H:20][O:21]C1=C(C=C(C=C1)C(C(CO)C(CC2=CC(=C(C=C2)O)OC)C(=O)O[Na])O)OC.[OH:10][Na]>>[H:20][OH+:10][Na].COC1=C(C=CC(=C1)CC(C(CO)C(C2=CC(=C(C=C2)[O-:21])OC)O)C(=O)O[Na])O 10=20;20,21=21
[Li+:20].C1CC2CC1C3C4CC=CC4C2(C3[O-:10])Cl.[AlH3]>>[Li:20][O:10]C1C2C3CCC(C3)C1(C4C2CC=C4)Cl.[AlH3] 10=20,
C[S+:20](C)I.[I-:10]>>C[S:20](C)(I)[I:10] 10=20,
C[C:20](NC)([O-:10])[Cl:21]>>C[C:20](=[O:10])NC.[Cl-:21] 10=20;20,21=21
CN(C[CH2+:20])C[CH:10]=[CH:11]C[Si](C)(C)C>>CN1C[CH2:20][CH:10](C1)[CH+:11]C[Si](C)(C)C 10,11=10,20
[H:20][O:21][C:22](=[O+:23][Si-](C)(C)(C)OS(=O)(=O)C)C.C[OH:10]>>[H:20][OH+:10]C.C[C:22](=[O:21])[O:23][Si-](C)(C)(C)OS(=O)(=O)C 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C[O:10]C>>[H:20][O+:10](C)C.[OH2:21] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])OCC)Cl.[NH2-:10]>>[H:20][NH2:10].CCO[C:22](=[CH:21]Cl)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CCN(CC)C(C)([NH2:10])O>>[H:20][NH2+:10]C(C)(N(CC)CC)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
C1=CC=C(C=C1)OCCCC(=O)[Cl:10].[Al:20](Cl)(Cl)Cl>>C1=CC=C(C=C1)OCCCC(=O)[Cl+:10][Al-:20](Cl)(Cl)Cl 10=20,
[H:20][O:21]S(=O)(=O)C1=CC=CO1.C[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C.C1=COC(=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
